US09227971B2
Preparation of (1S)-1-(5-bromopyridin-2-yl)ethanol
The (R)-(+)-2-Methyl-CBS-oxazaborolidine (2.08 g, 7.5 mmol) was dissolved in THF (10 mL), cooled to 0° C. and borane-dimethyl sulfide complex (2 M solution in THF, 7.50 mL, 15.0 mmol, 2.0 equiv.) was added dropwise. The resulting solution was stirred for 1 hour, then cooled to −40° C. and a solution of 1-(5-bromopyridin-2-yl)ethanone in THF (8.0 mL) was added dropwise over 5 min. A white precipitate formed toward the end of the addition. The slurry was stirred for 1 hour, warmed to −10° C., and stirred for another 60 min at this temperature. Analysis of the solution (HPLC) showed >95% conversion to the desired product. The reaction was poured into ethyl acetate (100 mL), washed with saturated ammonium chloride, water, and brine (50 ml each), dried over magnesium sulfate, filtered, and concentrated by rotary evaporation. The residual oil was purified by flash chromatography over silica gel (90 g), eluting with 40% ethyl acetate in hexanes to give the title compound (1.34 g) as a colorless oil.

reactant | (R)-(+)-2-Methyl-CBS-oxazaborolidine | 7.5 mmol, 2.08 g | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | borane-dimethyl sulfide | 15.0 mmol, 2 M, 7.50 mL, 2.0 equiv. | CSC.B
reactant | 1-(5-bromopyridin-2-yl)ethanone | BrC=1C=CC(=NC1)C(C)=O | C7H6BrNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | (1S)-1-(5-bromopyridin-2-yl)ethanol | BrC=1C=CC(=NC1)[C@H](C)O | C7H8BrNO
